US04788206
As in Example 97, a solution of 2,2'-dimethoxybenzophenone (24.2 g) and acetonitrile (6 mL) in tetrahydrofuran (120 mL) was added to a chilled (-70° C.) solution of lithium diisopropylamide prepared from diisopropylamine (16 mL) and 1.55M n-butyl lithium in hexane (74 mL) in dry tetrahydrofuran (120 mL). After the reaction was kept at -70° C. for 15 minutes, it was allowed to warm to room temperature and then was worked up in the usual manner to furnish 26.4 g of beta-hydroxy-beta-(2-methoxyphenyl)-2-methoxybenzenepropanenitrile, mp 170°-180° C. A sample was recrystallized from methanol to give the analytical specimen, mp 181°-182° C.

reactant | 2,2'-dimethoxybenzophenone | 24.2 g | COC1=C(C(=O)C2=C(C=CC=C2)OC)C=CC=C1 | C15H14O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 16 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.55M | C(CCC)[Li]
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | hexane | 74 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | beta-hydroxy-beta-(2-methoxyphenyl)-2-methoxybenzenepropanenitrile | 26.4 g | OC(CC#N)(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC | C17H17NO3
